US05811455
2-Carbomethoxy-4-cyano-4-(3-cyclopropylmethoxy-4-difluoromethoxyphenyl)cyclohexan-1-one To a suspension of sodium hydride (80% dispersion in mineral oil, 11.6 g, 388 mmol) in dry 1,2-dimethoxyethane (700 mL) under an argon atmosphere was added a solution of crude dimethyl 4-cyano-4-(3-cyclopropylmethoxy-4-difluoromethoxyphenyl)pimelate (41 g) in dry 1,2-dimethoxyethane (700 mL). The resulting mixture was heated at 60° C. for 1 h, cooled to room temperature, quenched with dilute aqueous hydrochloric acid and concentrated The residue was diluted with water, was acidified to pH 3 and was extracted twice with methylene chloride. The organic extract was washed with acidic water, was dried (sodium sulfate) and the solvent was removed in vacuo. Purification by flash chromatography, eluting with methylene chloride, followed by trituration with cold ether provided a solid (17.7 g, 43% from 3-cyclopropylmethoxy-4-difluoromethoxybenzaldehyde): m.p. 115°-116° C.

reactant | 2-Carbomethoxy-4-cyano-4-(3-cyclopropylmethoxy-4-difluoromethoxyphenyl)cyclohexan-1-one | C(=O)(OC)C1C(CCC(C1)(C1=CC(=C(C=C1)OC(F)F)OCC1CC1)C#N)=O | C20H21F2NO5
reactant | sodium hydride | 388 mmol, 11.6 g | [H-].[Na+]
reactant | dimethyl 4-cyano-4-(3-cyclopropylmethoxy-4-difluoromethoxyphenyl)pimelate | 41 g | C(#N)C(CCC(=O)OC)(CCC(=O)OC)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C21H25F2NO6
solvent | 1,2-dimethoxyethane | 700 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 700 mL | COCCOC | C4H10O2
product | 3-cyclopropylmethoxy-4-difluoromethoxybenzaldehyde | C1(CC1)COC=1C=C(C=O)C=CC1OC(F)F | C12H12F2O3
